US06639107B1
Alternative Synthesis of (+,−) Cis -2-Phenyl-cyclopentylamine
Scheme IB, step C: A 1000 mL three necked flask equipped with a mechanical stirrer, thermometer, addition funnel and a reflux condenser is charged with (+,−) cis-2-(2-phenyl-cyclopentyl)-isoindole-1,3-dione (27.34 g, 93.91 mmol) and toluene (400.0 mL). To this solution was added anhydrous hydrazine (29.48 mL, 939.09 mmol) dropwise over a period of 15 minutes. Stirred reaction at room temperature for 60 minutes then heated it at 90° C.-95° C. for 6.0 hours. Cooled reaction to room temperature, filtered precipitates, washed cake with toluene (50.0 mL) and concentrated filtrate to provide the title compound as an oil (mass=15.13 g);

reactant | (+,−) cis-2-(2-phenyl-cyclopentyl)-isoindole-1,3-dione | 93.91 mmol, 27.34 g | C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N1C(C2=CC=CC=C2C1=O)=O | C19H17NO2
reactant | hydrazine | 939.09 mmol, 29.48 mL | NN | H4N2
solvent | toluene | 400.0 mL | C1(=CC=CC=C1)C | C7H8
product | (+,−) Cis -2-Phenyl-cyclopentylamine | 15.13 g | C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N | C11H15N
